US08389513B2
5-Chloro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-phenyl]-amide
The condensation of (R)-4-(3-amino-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-4) and 5-chloro-pyridine-2-carboxylic acid following procedure I yielded the title compound as an off-white solid. MS (ISP): m/z=381.2 [M+H]+.

reactant | (R)-4-(3-amino-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=C(C=CC1)[C@]1(N=C(OCC1(F)F)N)C | C11H13F2N3O
reactant | 5-chloro-pyridine-2-carboxylic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | 5-Chloro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)Cl)(F)F | C17H15ClF2N4O2
